US09029544B2
(3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]5′-oxide
280 mg (3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline] are dissolved in 5 ml chloroform and treated with 80 mg of meta-chloroperbenzoic acid (MCPBA) (<77%). The mixture is stirred for 18 hours and then partitioned between dichloromethane and a solution of sodium sulfite in water (5%). The organic phase is washed with saturated aqueous sodium bicarbonate and dried with sodium sulphate. After evaporation of the solvents the residue is chromatographed on silica gel (hexane/ethylacetate 4:1).

reactant | (3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline] | 280 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO2Si
reactant | meta-chloroperbenzoic acid | 80 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | (3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]5′-oxide | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=[N+](C2CC(C1)(C)C)[O-])C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO3Si
